US09079888B2
Step (iii): Preparation of N-[4-(1-Cyclobutyl piperidin-4-yloxy)phenyl]-2-(morpholin-4-yl) acetamide dihydrochloride
To a stirred solution of N-[4-(1-Cyclobutyl piperidin-4-yloxy)phenyl]-2-(morpholin-4-yl)acetamide (70 g, 0.187 moles) in diethyl ether (2.3 L) and methanol (350 mL) was treated with 31.5% w/v methanolic hydrochloric acid (54.36 mL, 0.469 moles). The reaction mass was further stirred 2-3 hours at room temperature. The solvent was decanted and the resulting solid mass was washed with ether (3×250 mL) and dried under reduced pressure to obtain title compound 70 g (Yield: 83.9%).

reactant | N-[4-(1-Cyclobutyl piperidin-4-yloxy)phenyl]-2-(morpholin-4-yl)acetamide | 0.187 moles, 70 g | C1(CCC1)N1CCC(CC1)OC1=CC=C(C=C1)NC(CN1CCOCC1)=O | C21H31N3O3
reactant | hydrochloric acid | 0.469 moles, 54.36 mL | Cl | ClH
solvent | diethyl ether | 2.3 L | C(C)OCC | C4H10O
solvent | methanol | 350 mL | CO | CH4O
product | N-[4-(1-Cyclobutyl piperidin-4-yloxy)phenyl]-2-(morpholin-4-yl) acetamide dihydrochloride | 70 g, Yield: 83.9% | Cl.Cl.C1(CCC1)N1CCC(CC1)OC1=CC=C(C=C1)NC(CN1CCOCC1)=O | InChI=1S/C21H31N3O3.2ClH/c25-21(16-23-12-14-26-15-13-23)22-17-4-6-19(7-5-17)27-20-8-10-24(11-9-20)18-2-1-3-18;;/h4-7,18,20H,1-3,8-16H2,(H,22,25);2*1H
